US06218376B1
i) 5-(3-Methylphenyl)-3-oxopentanoic acid, ethyl ester
Ethyl acetoacetate (74.5 ml) was added dropwise to a solution of lithium diisopropylamide (2.0M solution in heptane/tetrahydrofuran/ethylbenzene, 600 ml) in tetrahydrofuran (2.5 L) at 0° C. The mixture was stirred for 30 min then 3-methylbenzylbromide (79 ml) was added dropwise. The mixture was stirred for 1 hour at 0° C. then quenched with 2M HCl. The mixture was extracted with ethyl acetate, the extracts washed with water, dried (MgSO4) and evaporated to give an oil which was purified by chromatography eluting with 5-10% ethyl acetate in isohexane.

reactant | Ethyl acetoacetate | 74.5 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | lithium diisopropylamide | 2.0M, 600 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methylbenzylbromide | 79 ml | CC=1C=C(CBr)C=CC1 | C8H9Br
solvent | tetrahydrofuran | 2.5 L | O1CCCC1 | C4H8O
product | 5-(3-Methylphenyl)-3-oxopentanoic acid, ethyl ester | CC=1C=C(C=CC1)CCC(CC(=O)OCC)=O | C14H18O3
